US04107301
136 g (0.5 mol) of N,N-dimethylguanidine sulphate were added to a solution of 162 g (3 mol) of sodium methylate in 1 l of methanol at 0° to 5° C. 160 g (1 mol) of malonic acid diethyl ester were then allowed to run in without cooling and the mixture was stirred for 24 hours at room temperature. The solvent was then distilled off in vacuo and the residue was dissolved in water. The solution was brought to approximately pH 5 by adding glacial acetic acid; it was then cooled to 0°-5° C and the product which had precipitated was filtered off. 75 g (48% of theory) of 2-dimethylamino-4,6-dihydroxypyrimidine were thus obtained in the form of a colorless powder of melting point > 300° C.

reactant | N,N-dimethylguanidine sulphate | 0.5 mol, 136 g | S(=O)(=O)(O)O.CN(C(=N)N)C
reactant | sodium methylate | 3 mol, 162 g | C[O-].[Na+]
reactant | malonic acid diethyl ester | 1 mol, 160 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
solvent | methanol | 1 l | CO | CH4O
product | 2-dimethylamino-4,6-dihydroxypyrimidine | 75 g, 48% | CN(C1=NC(=CC(=N1)O)O)C | C6H9N3O2
